US08431695B2
Preparation of 4-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-butyronitrile
A solution of 5-(2-benzyl-2H-indazol-6-yl)-7-(3-bromopropyl)pyrrolo[2,1-f][1,2,4]triazin-4-ylamine (80 mg, 0.173 mmol), sodium cyanide (17 mg, 0.35 mmol, 2.0 eq.), and sodium iodide (2.6 mg, 0.017 mmol, 0.1 eq.) in anhydrous DMF (1.7 mL) was stirred at 100° C. for 16 h. The reaction mixture was cooled to rt and poured into water. The aqueous layer was extracted with 3×25 mL of EtOAc and the combined organic phases were washed with brine, dried (Na2SO4), filtered and concentrated in vacuo. The crude was purified via preparative HPLC. The product containing fractions were collected, and the TFA from the eluent was removed via filtration through an acidic resin followed by washing with acetonitrile. The product was then eluted with 2M NH3 in MeOH. The filtrate was concentrated and the residue was crystallized from DCM-ether to provide the title compound (47.5 mg, 67%) as a white solid. 1H NMR (300 MHz, DMSO-d6) 8.54 (s, 1H), 7.91 (s, 1H), 7.80 (d, 1H), 7.59 (s, 1H), 7.36 to 7.30 (m, 5H), 7.15 (dd, 1H), 6.65 (s, 1H), 5.65 (s, 2H), 3.00 (t, 2H), 2.59 (t, 2H), 2.04 to 1.96 (m, 2H); ES-MS m/z 408.3 [M+H]+, RT (min) 2.95.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-(3-bromopropyl)pyrrolo[2,1-f][1,2,4]triazin-4-ylamine | 0.173 mmol, 80 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)CCCBr | C23H21BrN6
reactant | sodium cyanide | 0.35 mmol, 17 mg, 2.0 eq. | [C-]#N.[Na+]
reactant | sodium iodide | 0.017 mmol, 2.6 mg, 0.1 eq. | [I-].[Na+]
reactant | water | O | H2O
solvent | DMF | 1.7 mL | CN(C)C=O | C3H7NO
product | 4-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-butyronitrile | 47.5 mg, 67% | NC1=NC=NN2C1=C(C=C2CCCC#N)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C24H21N7
